US05354772
3,5-Dimethylbenzoyl chloride (Compound CXXII)
2.0 kg. (16.3 moles) of thionyl chloride is added dropwise over a period of 45 minutes to a suspension of 2.0 kg. (13.32 moles) of 3,5-dimethylbenzoic acid in 8 l. of toluene stirred at 65° C. under nitrogen during the course of which the temperature is kept below 80° C. The reaction mixture is stirred at 110°-115° C. under nitrogen for 5 hours and cooled, and the toluene and excess thionyl chloride are vacuum distilled at 55°-60° C. to obtain 2.247 kg. of crude product. A small sample is purified by vacuum distillation. B.p. 52°-57° C./0.25 mm Hg.

reactant | thionyl chloride | 16.3 moles | S(=O)(Cl)Cl | Cl2OS
reactant | 3,5-dimethylbenzoic acid | 13.32 moles | CC=1C=C(C(=O)O)C=C(C1)C | C9H10O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,5-Dimethylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
